US07816668B2
5.4 g (21.1 mmol) of 9-bromoanthracene, 2.6 g (21.1 mmol) of phenylbromic acid, 60 mg (0.21 mmol) of Pd(OAc)2, 10 ml (20 mmol) of a 2 mol/l potassium carbonate (K2CO3) aqueous solution, 263 mg (0.84 mmol) of tri(orthotolyl)phosphine (P(o-tolyl)3), and 20 ml of 1,2-dimethoxyethane (abbrev.: DME) were mixed, and stirred for 9 hours at 80° C. After the reaction, the solid extracted was recovered by suction filtration. Then it was dissolved in toluene and filtered through Florisil, Celite, and alumina. After the filtrate was washed by water and a saturated saline solution, it was dried with magnesium sulfate. After natural filtration, the filtrate was concentrated, and the target substance of 9-phenylanthracene was obtained in a light brown solid form, weighing 21.5 g in a yield of 85% (synthesis scheme (j-3)).

reactant | 9-bromoanthracene | 21.1 mmol, 5.4 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | phenylbromic acid | 21.1 mmol, 2.6 g | C1(=CC=CC=C1)[BrH](=O)(=O)O | C6H7BrO3
reactant | potassium carbonate | 2 mol/l | C([O-])([O-])=O.[K+].[K+]
reactant | tri(orthotolyl)phosphine | 0.84 mmol, 263 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | Pd(OAc)2 | 0.21 mmol, 60 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 9-phenylanthracene | yield of 85% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
